US07560546B2
Step A: Ethyl 5-chloro3-(thiomorpholin-4-ylsulfonyl)-1H-indole-2-carboxylate
The titled compound was prepared using the procedures described in Steps B and C of Example 2, replacing in Step B ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and morpholine with thiomorpholine. Proton NMR for the product was consistent with the titled compound. ESI+MS: 389.1 [M+H]+.

reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | Ethyl 5-chloro3-(thiomorpholin-4-ylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(NC2=CC1)C(=O)OCC)S(=O)(=O)N1CCSCC1 | C15H17ClN2O4S2
